US08007927B2
2,6-Dimethoxybiphenyl (5.00 g) and 15 g of pyridinium hydrochloride were placed in the round-bottom flask and immersed in the oil bath (210° C., 1.5 hours). Then the reaction was cooled down to room temperature, diluted with 200 ml of water and extracted with ethyl acetate (4×50 ml). Organic fractions were combined, dried over sodium sulfate and evaporated. The residue was subjected to column chromatography on silica gel (eluent hexane/ethyl acetate 1/1 mixture), providing 3.3 of biphenyl-2,6-diol as yellow solid.

reactant | 2,6-Dimethoxybiphenyl | 5.00 g | COC1=C(C(=CC=C1)OC)C1=CC=CC=C1 | C14H14O2
reactant | pyridinium hydrochloride | 15 g | Cl.[NH+]1=CC=CC=C1
solvent | water | 200 ml | O | H2O
product | biphenyl-2,6-diol | C=1(C(=CC=CC1O)O)C1=CC=CC=C1 | C12H10O2
